US05025025
To a suspension of 8.8 g (22.6 mmol) 3-pyridyl-methyltriphenylphosphonium chloride in 40 mL dry tetrahydrofuran at 0° C. is added slowly 9.0 mL (22.5 mmol) of 2.5 M n-butyllithium in hexane. After stirring the resulting deep red solution at room temperature for 0.5 hour, a solution of 3.23 g (9 mmol) of methyl 2,2-dimethyl-4-(formylmethyl)-8-(t-butyldimethylsiloxy)octanoate in 10 mL dry tetrahydrofuran is added slowly and then stirred for 16 hours. The reaction is quenched by addition of saturated ammonium chloride solution and then extracted thrice with ether. The combined organic extracts are washed with water and brine, dried, filtered and concentrated. The residue is taken up in ether and the resulting precipitate is removed by filtration. The filtrate is evaporation and the residue is purified by silica gel chromatography using 1:1 hexane, ether to give methyl 2,2-dimethyl-4-[3-(3-pyridyl)-2-propenyl]-8-(t-butyldimethylsiloxy)octanoate; NMR (CDCl3): delta 5.7-6.4 (m,2H), 3.63 and 3.60 (two s,3H), 1.2 and 1.15 (two s,6H).

reactant | 3-pyridyl-methyltriphenylphosphonium chloride | 22.6 mmol, 8.8 g | [Cl-].N1=CC(=CC=C1)C1=C(C=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C
reactant | n-butyllithium | 22.5 mmol, 2.5 M, 9.0 mL | C(CCC)[Li]
reactant | methyl 2,2-dimethyl-4-(formylmethyl)-8-(t-butyldimethylsiloxy)octanoate | 9 mmol, 3.23 g | CC(C(=O)OC)(CC(CCCCO[Si](C)(C)C(C)(C)C)CC=O)C | C19H38O4Si
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 2,2-dimethyl-4-[3-(3-pyridyl)-2-propenyl]-8-(t-butyldimethylsiloxy)octanoate | CC(C(=O)OC)(CC(CCCCO[Si](C)(C)C(C)(C)C)CC=CC=1C=NC=CC1)C | C25H43NO3Si
